US08357694B2
(R)-6-(2-fluorophenyl)-N-(4-(piperazin-1-yl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine
This was synthesized by using (R,Z)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one and 1-(4-(piperazin-1-yl)phenyl)guanidine as described in general procedure 1. LCMS m/e 452 (M+H).

reactant | (R,Z)-2-((dimethylamino)methylene)-4-(2-fluorophenyl)-3,4-dihydronaphthalen-1(2H)-one | CN(C)\C=C\1/C(C2=CC=CC=C2[C@@H](C1)C1=C(C=CC=C1)F)=O | C19H18FNO
reactant | 1-(4-(piperazin-1-yl)phenyl)guanidine | N1(CCNCC1)C1=CC=C(C=C1)NC(=N)N | C11H17N5
product | (R)-6-(2-fluorophenyl)-N-(4-(piperazin-1-yl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine | FC1=C(C=CC=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)N2CCNCC2 | C28H26FN5
